US20010041709A1
(E)-(S)-2-Ethoxy-3-[4-(3-methyl-5-phenyl-pent-2-en-4-ynyloxy)-phenyl]-propionic Acid Ethyl Ester
The title compound was prepared from of (E)-3-methyl-5-phenyl-pent-2-en-4-yn-1-ol (0.172 g, 1.0 mmol), (J. Med. Chem. 1998, 41(14), 2524-2536), tributylphosphine (0.370 mL, 1.5 mmol), 1,1′-(azodicarbonyl) dipiperidine (0.378 g, 1.5 mmol) and (S)-ethyl 2-ethoxy-3-(4-hydroxy-phenyl)-propionate (0.262 g, 1.1 mmol) in dry benzene (20 mL) by a procedure analogous to that described in example 3, yielding 0.276 g (68%) of (E)-(S)-2-ethoxy-3-[4-(3-methyl-5-phenyl-pent-2-en-4-ynyloxy)-phenyl]-propionic acid ethyl ester.

reactant | (E)-3-methyl-5-phenyl-pent-2-en-4-yn-1-ol | 1.0 mmol, 0.172 g | C\C(=C/CO)\C#CC1=CC=CC=C1 | C12H12O
reactant | tributylphosphine | 1.5 mmol, 0.370 mL | C(CCC)P(CCCC)CCCC | C12H27P
reactant | 1,1′-(azodicarbonyl) dipiperidine | 1.5 mmol, 0.378 g | N(=NC(=O)N1CCCCC1)C(=O)N1CCCCC1 | C12H20N4O2
reactant | (S)-ethyl 2-ethoxy-3-(4-hydroxy-phenyl)-propionate | 1.1 mmol, 0.262 g | C(C)O[C@H](C(=O)OCC)CC1=CC=C(C=C1)O | C13H18O4
solvent | benzene | 20 mL | C1=CC=CC=C1 | C6H6
product | (E)-(S)-2-ethoxy-3-[4-(3-methyl-5-phenyl-pent-2-en-4-ynyloxy)-phenyl]-propionic acid ethyl ester | 0.276 g, 68% | C(C)OC([C@H](CC1=CC=C(C=C1)OC\C=C(\C#CC1=CC=CC=C1)/C)OCC)=O | C25H28O4
